US08530492B2
Preparation of N-(2-methyl-5-nitrophenyl)-4-(pyridine-3-yl)pyridine-2-amine (compound 6):
4-(Pyridine-3-yl)pyridine-2-amine (8.60 g, 0.05 mol), CuI (2.39 g, 0.0125 mmol), anhydrous K2CO3 (14.0 g, 0.1 mol), KI (2.08 g, 0.0125 mol) were added to a Schlenk-type three-neck flask fitted with a thermometer, magnetic stirbar, and septum. The flask was evacuated and back filled with N2 three times. Dioxane (250 mL) and 2-bromo-4-nitrotoluene (9.82 g, 0.045 mol) were added to the flask. Finally, N,N′-dimethylethylenediamine (1.10 g, 0.0125 mol) was added by syringe at room temperature with stirring. The reaction mixture was stirred at 110° C. under N2 for 24 hours and then cooled to room temperature. Ammonia (30%, 100 mL) and saturated NaCl (400 mL), were added to the reaction mixture which was then extracted with ethyl acetate (500 mL×3). The organic phase was dried over Na2SO4 and a yellow solid was obtained after the solvent was removed under reduced pressure. The crude product was purified by column chromatography (biotage: DMC/Methanol, 1-8%, 20 CV). The desired product was obtained as a yellow solid (8.3 g, yield: 60%); 1H NMR (500 MHz, CDCl3) δ 2.49 (s, 3H), 7.36 (m, 1H), 7.15 (br., 1H), 7.35 (d, 1H), 7.38 (d, 1H), 7.52 (m, 1H), 7.88 (d, 1H), 8.55 (d, 1H), 8.60 (d, 1H), 8.76 (d, 1H), 9.28 (s, 1H), 9.50 (s, 1H). LC-MS (m/z) calculated, 307.3, found, 308.3 [M+H]+.

reactant | 4-(Pyridine-3-yl)pyridine-2-amine | 0.05 mol, 8.60 g | N1=CC(=CC=C1)C1=CC(=NC=C1)N | C10H9N3
reactant | K2CO3 | 0.1 mol, 14.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-4-nitrotoluene | 0.045 mol, 9.82 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | N,N′-dimethylethylenediamine | 0.0125 mol, 1.10 g | CNCCNC | C4H12N2
reactant | Ammonia | 100 mL | N | H3N
reactant | NaCl | 400 mL | [Na+].[Cl-]
catalyst | CuI | 0.0125 mmol, 2.39 g | [Cu]I
solvent | Dioxane | 250 mL | O1CCOCC1 | C4H8O2
product | N-(2-methyl-5-nitrophenyl)-4-(pyridine-3-yl)pyridine-2-amine | CC1=C(C=C(C=C1)[N+](=O)[O-])NC1=NC=CC(=C1)C=1C=NC=CC1 | C17H14N4O2
